US05955607
e) 6-Benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman
4.0 g (14 mmol) of 4-amino-6-benzyloxy-2,2-dimethylchroman were treated with 4.2 ml (30 mmol) of triethylamine in 80 ml of THF at RT and the mixture was stirred for 30 min, then treated with 1.95 g (1.3 ml, 17 mmol) of methanesulfonyl chloride, the temperature rising to 40° C. It was then heated to reflux for 2 h, allowed to stand overnight at RT and concentrated in vacuo, and the residue was treated with water; 4.9 g of product, m.p.162-165° C.

reactant | 4-amino-6-benzyloxy-2,2-dimethylchroman | 14 mmol, 4.0 g | NC1CC(OC2=CC=C(C=C12)OCC1=CC=CC=C1)(C)C | C18H21NO2
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 17 mmol, 1.3 ml, 1.95 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 6-Benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)NS(=O)(=O)C | C19H23NO4S
